US08216547B2
Sodium hydride (60% in oil, 46 mg, 1.15 mmol) was added to a solution of N-(3-acetyl-benzo[b]thiophen-2-yl)-ethanesulfonamide (310 mg, 1.09 mmol) in DMF (4 mL), at 0° C. The resulting mixture was stirred at 0° C. for 15 min, to which was added 4-fluoro-3-trifluoromethylbenzyl bromide (253 μL, 1.33 mmol) and the resulting mixture stirred at ambient temperature for 2 h. 15-Crown-5 ether (220 μL, 1.33 mmol) and an additional equivalent of 4-fluoro-3-trifluoromethylbenzyl bromide was then added. The resulting solution was stirred at ambient temperature overnight, water was then added, and the desired product extracted into ethyl acetate. The organic phase was washed with water (3×), brine, dried over sodium sulfate, filtered, and the solvent evaporated in vacuo to yield a residue. The residue was purified by flash column chromatography (SiO2), eluting with an ethyl acetate-heptane gradient to yield N-(3-acetyl-benzo[b]thiophen-2-yl)-N-(4-fluoro-3-trifluoromethyl-benzyl)-ethanesulfonamide as an off-white solid. 1H-NMR (DMSO-d6): δ 1.32 (t, 3H), 2.29 (s, 3H), 3.49 (q, 2H), 5.08 (s, 2H), 7.41-7.52 9m, 3H), 7.70-7.77 (m, 2H), 7.93-8.03 (m, 2H); MS: m/z 460.2 (MH+).

reactant | Sodium hydride | 1.15 mmol, 46 mg | [H-].[Na+]
reactant | N-(3-acetyl-benzo[b]thiophen-2-yl)-ethanesulfonamide | 1.09 mmol, 310 mg | C(C)(=O)C=1C2=C(SC1NS(=O)(=O)CC)C=CC=C2 | C12H13NO3S2
reactant | 4-fluoro-3-trifluoromethylbenzyl bromide | 1.33 mmol, 253 μL | FC1=C(C=C(CBr)C=C1)C(F)(F)F | C8H5BrF4
reactant | 15-Crown-5 ether | 1.33 mmol, 220 μL | C1COCCOCCOCCOCCO1 | C10H20O5
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | N-(3-acetyl-benzo[b]thiophen-2-yl)-N-(4-fluoro-3-trifluoromethyl-benzyl)-ethanesulfonamide | C(C)(=O)C=1C2=C(SC1N(S(=O)(=O)CC)CC1=CC(=C(C=C1)F)C(F)(F)F)C=CC=C2 | C20H17F4NO3S2
